US08497381B2
Step 3: (4S,5R)-3-(2-Bromo-5-trifluoromethyl-benzyl)-4-methyl-5-phenyl-oxazolidin-2-one
To (4S,5R)-(−)-4-methyl-5-phenyl-2-oxazolidinone (0.386 g, 2.13 mmol) in THY (7 mL) at −78° C. under N2 was added n-butyllithium (2.5M in hexanes; 0.94 mL, 2.35 mmol), and the mixture was stirred at −78° C. for 30 minutes. 2-Bromo-5-(trifluoromethyl)benzyl bromide (0.678 g, 2.13 mmol) was added, and the reaction was warmed to room temperature and stirred overnight. Once no starting material was seen by analytical LCMS, the mixture was transferred to a separatory funnel and partitioned between EtOAc and H2O. The organic layer was separated and washed with brine, dried over MgSO4, filtered, and concentrated to give the title compound.

reactant | (4S,5R)-(−)-4-methyl-5-phenyl-2-oxazolidinone | 2.13 mmol, 0.386 g | C[C@@H]1NC(O[C@@H]1C1=CC=CC=C1)=O | C10H11NO2
reactant | n-butyllithium | 2.35 mmol, 2.5M, 0.94 mL | C(CCC)[Li]
reactant | 2-Bromo-5-(trifluoromethyl)benzyl bromide | 2.13 mmol, 0.678 g | BrC1=C(CBr)C=C(C=C1)C(F)(F)F | C8H5Br2F3
product | (4S,5R)-3-(2-Bromo-5-trifluoromethyl-benzyl)-4-methyl-5-phenyl-oxazolidin-2-one | BrC1=C(CN2C(O[C@@H]([C@@H]2C)C2=CC=CC=C2)=O)C=C(C=C1)C(F)(F)F | C18H15BrF3NO2
